US05578634
2-Ethyl-5-methyl-1H-indole. Using methods described in Example 1, Part D, 11.05 g (0.05 mol) of N-tert-butoxycarbonyl-2,4-dimethylaniline was reacted with 81 mL of 1.3M sec-butyl lithium and 6.1 g (0.05 mol) of N-methoxy-N-methylpropanamide to give the crude 1-[2-(tert-butoxycarbonylamino)-5-methylphenyl)-2-pentanone. Treatment of this material with trifluoroacetic and crystallization from EtOAc/hexane gave 1.82 g (13% yield) of 2-ethyl-5-methyl-1H-indole, mp, 77°-78° C.

reactant | 2-Ethyl-5-methyl-1H-indole | C(C)C=1NC2=CC=C(C=C2C1)C | C11H13N
reactant | N-tert-butoxycarbonyl-2,4-dimethylaniline | 0.05 mol, 11.05 g | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C)C | C13H19NO2
reactant | sec-butyl lithium | 1.3M, 81 mL | C(C)(CC)[Li]
reactant | N-methoxy-N-methylpropanamide | 0.05 mol, 6.1 g | CON(C(CC)=O)C | C5H11NO2
product | 1-[2-(tert-butoxycarbonylamino)-5-methylphenyl)-2-pentanone | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C)CC(CCC)=O | C17H25NO3
